US07291631B2
To a stirred solution of N,N-diisopropylamine (0.91 mL, 6.5 mmol) in dry THF (15 mL) at −78° C. was added n-BuLi (2.1 M in hexanes, 2.6 mL, 5.5 mmol) and the resultant solution was stirred for 20 minutes. To the solution of LDA was added 2-bromopyridine (0.48 mL, 5.0 mmol) and the resultant orange solution was stirred for 2 h at −78° C., after which a dry THF solution (10 mL) of phenyl disulfide (1.31 g, 6.0 mmol) was added. The resultant yellow solution was stirred at this temperature for 1 h and then stirred an additional 2 h at room temperature. The reaction mixture was diluted with brine (30 mL) and H2O (5 mL), and extracted with Et2O (3×30 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash chromatography on silica gel (Hexanes/EtOAc, 90:10) gave impure 2-Bromo-3-phenylsulfanyl-pyridine (570 mg).

reactant | N,N-diisopropylamine | 6.5 mmol, 0.91 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 5.5 mmol, 2.1 M, 2.6 mL | [Li]CCCC
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-bromopyridine | 5.0 mmol, 0.48 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | phenyl disulfide | 6.0 mmol, 1.31 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | brine | 30 mL | [Cl-].[Na+].O
solvent | H2O | 5 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-phenylsulfanyl-pyridine | 570 mg | BrC1=NC=CC=C1SC1=CC=CC=C1 | C11H8BrNS
